datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"COc1ccnc2c1ccc1c(OC)cc[n:10]c12.c1ccc2c(c1)cc1ccccc1[n+]2[O:21][H:20]>>COc1ccnc2c1ccc1c(OC)cc[n+:10]([H:20])c12.c1ccc2c(c1)cc1ccccc1[n+]2[O-:21] 10=20;20,21=21",
"Oc1ccc2ncc[n:10]c2c1.Oc1ccccc1-c1nnn[n:21]1[H:20]>>Oc1ccc2ncc[n+:10]([H:20])c2c1.Oc1ccccc1-c1nnn[n-:21]1 10=20;20,21=21",
"CC(O)C(C(=O)[O:21][H:20])c1ccc(C2CCCCC2)cc1.COCCCC[NH:10]c1ccccc1>>CC(O)C(C(=O)[O-:21])c1ccc(C2CCCCC2)cc1.COCCCC[NH+:10](c1ccccc1)[H:20] 10=20;20,21=21",
"Cc1cc(C)c([O-:10])c(C)c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1cc(C)c([O:10][H:20])c(C)c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(C)[NH:10]CC(O)COc1ccccc1.O=C([O-])/C=C/CC[NH2+:21][H:20]>>CC(C)[NH+:10](CC(O)COc1ccccc1)[H:20].O=C([O-])/C=C/CC[NH2:21] 10=20;20,21=21",
"O=C1C=CC=CC=C1[O:21][H:20].c1c[nH]c(P(c2ncc[nH]2)c2[nH]cc[n:10]2)n1>>O=C1C=CC=CC=C1[O-:21].c1c[nH]c(P(c2ncc[nH]2)c2[nH]cc[n+:10]2[H:20])n1 10=20;20,21=21",
"CC1(C)C(=O)[N:21]([H:20])C(=O)C1(C)C.Cc1ccc(S(=O)(=O)[NH-:10])cc1>>CC1(C)C(=O)[N-:21]C(=O)C1(C)C.Cc1ccc(S(=O)(=O)[NH:10][H:20])cc1 10=20;20,21=21",
"C[Si](C)(C)C[NH:10]C[Si](C)(C)C.N#CC1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>C[Si](C)(C)C[NH+:10](C[Si](C)(C)C)[H:20].N#CC1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"C[N+:21](C)(Cc1ccccc1O)[H:20].Cc1ccc([O-:10])c2ncccc12>>C[N:21](C)Cc1ccccc1O.Cc1ccc([O:10][H:20])c2ncccc12 10=20;20,21=21",
"Cc1ccc([N+:21](C)(C)[H:20])cc1.Cc1n[nH]c([O-:10])c1-c1ccccc1>>Cc1ccc([N:21](C)C)cc1.Cc1n[nH]c([O:10][H:20])c1-c1ccccc1 10=20;20,21=21",
"O=C(C[N+](=O)[O-])[O-:10].Oc1ccc2c[n+:21]([H:20])c3ccccc3c2c1>>O=C(C[N+](=O)[O-])[O:10][H:20].Oc1ccc2c[n:21]c3ccccc3c2c1 10=20;20,21=21",
"Cc1cccc(C(=O)[O-:10])c1I.Nc1ccc(S(=O)(=O)[N:21](c2ccc(S(N)(=O)=O)cc2)[H:20])cc1>>Cc1cccc(C(=O)[O:10][H:20])c1I.Nc1ccc(S(=O)(=O)[N-:21]c2ccc(S(N)(=O)=O)cc2)cc1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=[N+]([O-])c1cccc2c[n+](CC[NH2:10])ccc12>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=[N+]([O-])c1cccc2c[n+](CC[NH2+:10][H:20])ccc12 10=20;20,21=21",
"CC1=CC(=C2C=CC=CC=C2)C=C(C)C1=[O+:21][H:20].CSc1cccc([NH2:10])c1>>CC1=CC(=C2C=CC=CC=C2)C=C(C)C1=[O:21].CSc1cccc([NH2+:10][H:20])c1 10=20;20,21=21",
"O=S(=O)([O-])c1cc([O-:10])c2[nH]ncc2c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=S(=O)([O-])c1cc([O:10][H:20])c2[nH]ncc2c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"COc1cc(N)c(C#N)c(N)[n:10]1.[NH3+]c1ccccc1-c1sc2ccccc2[n+:21]1[H:20]>>COc1cc(N)c(C#N)c(N)[n+:10]1[H:20].[NH3+]c1ccccc1-c1sc2ccccc2[n:21]1 10=20;20,21=21",
"Cc1cc([N+](=O)[O-])cc(C)c1[O:21][H:20].O=[N+]([O-])c1cc([O-:10])ccc1[O-]>>Cc1cc([N+](=O)[O-])cc(C)c1[O-:21].O=[N+]([O-])c1cc([O:10][H:20])ccc1[O-] 10=20;20,21=21",
"CC[N:10](CC)CCCC(C)Nc1ccnc2cc(Br)ccc12.O=C1C=CC(=N[O:21][H:20])C=C1>>CC[N+:10](CC)(CCCC(C)Nc1ccnc2cc(Br)ccc12)[H:20].O=C1C=CC(=N[O-:21])C=C1 10=20;20,21=21",
"CCCCCCCCCCCCCCCCC[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>CCCCCCCCCCCCCCCCC[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"O=C(CCS)[O-:10].O=C(CS/C=C/c1ccccc1)[O:21][H:20]>>O=C(CCS)[O:10][H:20].O=C(CS/C=C/c1ccccc1)[O-:21] 10=20;20,21=21",
"CCCC[N:10](CC[S-])CCCC.c1ccc(-c2ccc3n(cc(C[NH+]4CCOCC4)[n+:21]3[H:20])n2)cc1>>CCCC[N+:10](CC[S-])(CCCC)[H:20].c1ccc(-c2ccc3n(cc(C[NH+]4CCOCC4)[n:21]3)n2)cc1 10=20;20,21=21",
"CCC[NH2+]CC(=O)[O:21][H:20].O=C([O-])CCCCC[NH2:10]>>CCC[NH2+]CC(=O)[O-:21].O=C([O-])CCCCC[NH2+:10][H:20] 10=20;20,21=21",
"Cc1cccc(CCCCCCCC(=O)[O-])[n:10]1.O=[N+]([O-])c1cc([NH2+:21][H:20])c2ccccc2c1>>Cc1cccc(CCCCCCCC(=O)[O-])[n+:10]1[H:20].O=[N+]([O-])c1cc([NH2:21])c2ccccc2c1 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1.NCCC[NH:10]CCO>>C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1.NCCC[NH+:10](CCO)[H:20] 10=20;20,21=21",
"C1C[NH:10]C1.C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>C1C[NH+:10]([H:20])C1.C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CCNCC#CC[NH+:21](CC)[H:20].CCc1[nH]cc[n:10]1>>CCNCC#CC[NH:21]CC.CCc1[nH]cc[n+:10]1[H:20] 10=20;20,21=21",
"CC[NH+](CC)CCNc1nc(C)[n+:21]([H:20])c(Nc2ccc(Cl)cc2)n1.Clc1ccccc1[O-:10]>>CC[NH+](CC)CCNc1nc(C)[n:21]c(Nc2ccc(Cl)cc2)n1.Clc1ccccc1[O:10][H:20] 10=20;20,21=21",
"CN1Cc2c(nc[n-:10]2)N(C)C1=O.Cc1cc(/N=N/c2nc3ccccc3s2)c2cccnc2c1[O:21][H:20]>>CN1Cc2c(nc[n:10]2[H:20])N(C)C1=O.Cc1cc(/N=N/c2nc3ccccc3s2)c2cccnc2c1[O-:21] 10=20;20,21=21",
"CCCCCCCCCCCCCC[N+:21](CC(O)CC)(CC(O)CC)[H:20].C[NH+]1C[C@@H](C(=O)[O-:10])C=C2c3cccc4[nH]cc(c34)C[C@@H]21>>CCCCCCCCCCCCCC[N:21](CC(O)CC)CC(O)CC.C[NH+]1C[C@@H](C(=O)[O:10][H:20])C=C2c3cccc4[nH]cc(c34)C[C@@H]21 10=20;20,21=21",
"CCC[n+]1cccc2cc([O:21][H:20])ccc21.O=C1NC(CC(=O)[O-:10])Oc2ccccc21>>CCC[n+]1cccc2cc([O-:21])ccc21.O=C1NC(CC(=O)[O:10][H:20])Oc2ccccc21 10=20;20,21=21",
"CCC[O-:10].C[N+]1=CC=C(C(=O)[CH:21](C2=CC=C(Cl)C([N+](=O)[O-])=C2)[H:20])C=C1>>CCC[O:10][H:20].C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=C(Cl)C([N+](=O)[O-])=C2)C=C1 10=20;20,21=21",
